US06217793B1
{circle around (3)}: A mixture comprising 1.66 g of (S)-4-(1′-methylnonylcarbonyloxy)phenol, 1.37 g of 4-benzyloxybenzoic acid, 1.24 g of DCC and 10 g of dichloromethane was stirred at room temperature for 30 minutes. Then, a catalytic amount of 4-N,N-dimethylaminopyridine was added to the mixture, and the mixture was further stirred at room temperature for 12 hours. After finishing the reaction, insoluble substances were filtered off, followed by distilling off dichloromethane from the filtrate under reduced pressure. The resultant residue was purified by means of silica gel column chromatography, whereby 2.0 g of (S)-4-[4′-(1″-methylnonylcarbonyloxy)phenyloxycarbonyl]-1-benzyloxybenzene was obtained in the form of a colorless crystal.

reactant | (S)-4-(1′-methylnonylcarbonyloxy)phenol | 1.66 g | C[C@@H](CCCCCCCC)C(=O)OC1=CC=C(C=C1)O | C17H26O3
reactant | 4-benzyloxybenzoic acid | 1.37 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | DCC | 1.24 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 10 g | ClCCl | CH2Cl2
product | (S)-4-[4′-(1″-methylnonylcarbonyloxy)phenyloxycarbonyl]-1-benzyloxybenzene | 2.0 g | C[C@@H](CCCCCCCC)C(=O)OC1=CC=C(C=C1)OC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H36O5
